US03983111
3α-Hydroxy-21-morpholino-5α-pregnane-11,20-dione
A solution of 21-bromo-3α-hydroxy-5α-pregnane-11,20-dione (1.6 g) in refluxing tetrahydrofuran (40 ml) was treated with morpholine (0.7 ml) under nitrogen for 3 hr and then poured into ether. The ethereal solution was washed successively with 5% aqueous sodium bicarbonate and water, dried (Na2SO4) and evaporated. The residue was partitioned between a mixture of 2N-hydrochloric acid (6 ml), water (200 ml), acetone (20 ml) and methylene chloride (120 ml). The aqueous phase was treated with 2N-sodium hydroxide (6 ml) and sodium chloride (20 g) and the resulting mixture was extracted with methylene chloride. The extracts were washed with water, dried (Na2SO4) and evaporated to give title compound (1.5 g) as a white foam, [α]D + 81° (c 1.1).

reactant | 21-bromo-3α-hydroxy-5α-pregnane-11,20-dione | 1.6 g | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C21H31BrO3
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | morpholine | 0.7 ml | N1CCOCC1 | C4H9NO
solvent | ether | CCOCC | C4H10O
product | 3α-Hydroxy-21-morpholino-5α-pregnane-11,20-dione | 1.5 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CN5CCOCC5)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C25H39NO4
